US03978092
0.1 Part of the reaction product, 1.74 parts of benzene, and 0.00018 part of benzoic acid were charged into a sealed tube, and reacted at 250°C. for 10 minutes. The product was subjected to gas chromatography analysis. It was thus confirmed that 3,7,11,15,19-pentamethyl-2,6-eicosadienal was obtained at the selectivity of 69.5% to the originally fed β-methyl-crotonaldehyde diethylacetal. The analytical value of the resulting acetal and aldehyde is shown in Table 16.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 3,7,11,15,19-pentamethyl-2,6-eicosadienal | CC(=CC=O)CCC=C(CCCC(CCCC(CCCC(C)C)C)C)C | C25H46O
reactant | benzene | C1=CC=CC=C1 | C6H6
product | β-methyl-crotonaldehyde diethylacetal | C(C)OC(C=C(C)C)OCC | C9H18O2
